US09376454B2
Step 4. Synthesis of 3-[2-(2-2,3-Dihydro-1H-isoindol-5-yl-acetylamino)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid
Trifluoroacetic acid (0.60 mL, 8.08 mmol) was added to a solution of 5-{[2-(3-tert-Butoxycarbonyl-2-methoxy-phenyl)-1-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethylcarbamoyl]-methyl}-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (0.285 g, 0.414 mmol) in CH2Cl2 (3.0 mL) under argon. The reaction was stirred at room temperature for 2 hr then concentrated in vacuo and carried to the next step without purification. ESI-MS m/z 533 (MH)+.

reactant | Trifluoroacetic acid | 8.08 mmol, 0.60 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-{[2-(3-tert-Butoxycarbonyl-2-methoxy-phenyl)-1-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethylcarbamoyl]-methyl}-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 0.414 mmol, 0.285 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)CC(NC(CC1=C(C(=CC=C1)C(=O)OC(C)(C)C)OC)B1OC2(C3C(C(CC2O1)C3)(C)C)C)=O | C39H53BN2O8
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-(2-2,3-Dihydro-1H-isoindol-5-yl-acetylamino)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid | C1NCC2=CC(=CC=C12)CC(=O)NC(CC=1C(=C(C(=O)O)C=CC1)OC)B1OC2(C3C(C(CC2O1)C3)(C)C)C | C30H37BN2O6
